US07705028B2
5f) Ethyl 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate
A solution of [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol (0.110 g, 0.35 mmol) (from multiple batches), ethyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate (0.102 g, 0.35 mmol), triphenylphosphine (0.092 g, 0.35 mmol) and diisopropyl azodicarboxylate (0.063 mL, 0.35 mmol) in toluene (3.5 mL) was placed in microwave reaction tube and heated to 80° C. for 1000 seconds. The solution was concentrated and purified by chromatography (silica gel, hexane to 1:4 ethyl acetate:hexanes) to provide the title compound (0.115 g, 51.6% as 0.7EtOAc). 1H NMR (DMSO-d6): δ 8.79 (d, J=9 Hz, 1H), 8.28 (s, 1H), 8.22 (d, J=8 Hz, 1H), 8.09 (d, J=7 Hz, 1H), 7.98 (dd, J=2, 9 Hz, 1H), 7.80 (d, J=9 Hz, 2H), 7.60 (m, 1H), 7.42 (d, J=8 Hz, 2H), 7.25 (t, J=8 Hz, 1H), 7.14 (d, J=8 Hz, 2H), 4.98 (s, 2H), 4.40 (q, J=7 Hz, 2H), 3.35 (septet, J=7 Hz, overlapping H2O, 1H), 3.24-3.20 (m, 2H), 2.89-2.85 (m, 2H), 1.37 (t, J=7 Hz, 3H), 1.25 (d, J=7 Hz, 6H). ESI-LCMS m/z 588 (M+H)+.

reactant | [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.35 mmol, 0.110 g | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1CO)C(C)C | C15H17Cl2NO2
reactant | ethyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate | 0.35 mmol, 0.102 g | OC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OCC | C19H16O3
reactant | triphenylphosphine | 0.35 mmol, 0.092 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.35 mmol, 0.063 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.115 g, 51.6% | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OCC)C(C)C | C34H31Cl2NO4
